US04444774
2-Methyl-7-(3-pyridinyl)-5-(trifluoromethyl)[1,2,4]triazolo[1,5-a]pyrimidin
A reaction mixture of 0.986 g of 3-amino-5-methyl-1,2,4-triazole and 2.178 g of 4,4,4-trifluoro-1-(3-pyridyl)-1,3-butanedione in 25 ml of glacial acetic acid was refluxed for 4 hours. The mixture was then evaporated to dryness in vacuo and gave a crystalline residue. This residue was partitioned between a saturated aqueous sodium bicarbonate solution and dichloromethane and the procedure of Example 1 was continued to give 1.33 g of the desired product as colorless crystals, mp 195°-197° C.

reactant | 3-amino-5-methyl-1,2,4-triazole | 0.986 g | NC1=NNC(=N1)C | C3H6N4
reactant | 4,4,4-trifluoro-1-(3-pyridyl)-1,3-butanedione | 2.178 g | FC(C(CC(=O)C=1C=NC=CC1)=O)(F)F | C9H6F3NO2
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 2-Methyl-7-(3-pyridinyl)-5-(trifluoromethyl)[1,2,4]triazolo[1,5-a]pyrimidin | 1.33 g | CC1=NN2C(N=C(C=C2C=2C=NC=CC2)C(F)(F)F)=N1 | C12H8F3N5
